US07935725B2
Step A: (S,S)-5-{2-[4-(Benzothiazol-2-yloxy)-phenyl]-ethyl}-2,5-diaza-bicyclo[2.2.1]hep-tane-2-carboxylic acid tert-butyl ester.
To a stirred solution of 2-[4-(2-bromo-ethyl)-phenoxy]-benzothiazole (1.5 g, 4.5 mmol) and (S,S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (980 mg, 4.9 mmol) in CH3CN (20 mL) at rt was added Et3N (900 μL, 6.3 mmol). The resulting suspension was stirred at rt for 24 h and then partitioned between CH2Cl2 (200 mL) and satd. aq. NaHCO3 (80 mL). The organic layer was separated, dried (Na2SO4), filtered and concentrated. Purification by silica gel flash chromatography (EtOAc) afforded the title compound as a white foam (1.1 g, 56%). MS (ESI): mass calcd. for C25H29N3O3S, 451.19; m/z found, 452.2 [M+H]+. 1H NMR (500 MHz, CDCl3, mixture of rotamers): 7.73 (d, J=8.4 Hz, 1H), 7.66 (d, J=7.5 Hz, 1H), 7.38 (m, 1H), 7.30-7.24 (m, 5H), 4.38 (br m, 0.5H), 4.24 (br m, 0.5H), 3.53 (br m, 2H), 3.16 (t, J=10.4 Hz, 1H), 3.03 (d, J=8.4 Hz, 0.5H), 2.98 (d, J=9.8 Hz, 0.5H), 2.86-2.74 (br m, 4H), 2.69 (br d, J=9.8 Hz, 0.5H), 2.52 (br d, J=9.4 Hz, 0.5H), 1.84 (br d, J=9.2 Hz, 1H), 1.73 (br d, J=10.0 Hz, 0.5H), 1.69 (br d, J=9.2 Hz, 0.5H), 1.46 (s, 9H).

reactant | 2-[4-(2-bromo-ethyl)-phenoxy]-benzothiazole | 4.5 mmol, 1.5 g | BrCCC1=CC=C(OC=2SC3=C(N2)C=CC=C3)C=C1 | C15H12BrNOS
reactant | (S,S)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 4.9 mmol, 980 mg | C(C)(C)(C)OC(=O)N1[C@@H]2CN[C@H](C1)C2 | C10H18N2O2
reactant | Et3N | 6.3 mmol, 900 μL | CCN(CC)CC | C6H15N
solvent | CH3CN | 20 mL | CC#N | C2H3N
product | (S,S)-5-{2-[4-(Benzothiazol-2-yloxy)-phenyl]-ethyl}-2,5-diaza-bicyclo[2.2.1]hep-tane-2-carboxylic acid tert-butyl ester | 1.1 g, 56% | C(C)(C)(C)OC(=O)N1[C@@H]2CN([C@H](C1)C2)CCC2=CC=C(C=C2)OC=2SC1=C(N2)C=CC=C1 | C25H29N3O3S
